US07709471B2
2-fluoro-N-(1-methyl-4-piperidyl)-4-nitro-benzamide
2-Fluoro-4-nitrobenzoic acid (Aldrich; 3 g, 16.21 mmol), 4-Amino-1-methylpiperidine (Fluorochem; 2.03 g, 17.83 mmol), HATU (6.77 g, 17.83 mmol), DIPEA (8.5 mL, 48.63 mmol) and DMF (30 mL) were combined and stirred at ambient temperature for 18 hrs. Solvents evaporated and partitioned between DCM (200 ml) and water (100 ml). The aqueous phase was re-extracted with DCM (100 ml). The combined organic phases were dried (MgSO4) and evaporated. The resultant material was taken up in DCM and purified on silica eluting with a gradient of 0-5% 2M ammonia in MeOH/DCM then 5% 2M ammonia in MeOH/DCM. Fractions containing product were combined and evaporated to give the title compound as a yellow solid (2.67 g, 59%)

reactant | 2-Fluoro-4-nitrobenzoic acid | 16.21 mmol, 3 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 4-Amino-1-methylpiperidine | 17.83 mmol, 2.03 g | NC1CCN(CC1)C | C6H14N2
reactant | HATU | 17.83 mmol, 6.77 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 48.63 mmol, 8.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-N-(1-methyl-4-piperidyl)-4-nitro-benzamide | 2.67 g, 59% | FC1=C(C(=O)NC2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C13H16FN3O3
